US04766121
5-Benzyloxy-2-methoxybenzaldehyde (150.4 g) was suspended in methanol (600 ml) and to the gently warmed stirred mixture was added, in portions, sodium borohydride (15.0 g). The methanol was evaporated and the residue partitioned between dichloromethane and water. The organic layer was washed with water, then saturated sodium chloride, dried with anhydrous magnesium sulphate and evaporated to dryness. The residue crystallised from dichloromethane/petroleum spirit (40°-60° ) to give 5-benzyloxy-2-methoxybenzyl alcohol (143.8 g, 95%), m.p. 50°-51°.

reactant | 5-Benzyloxy-2-methoxybenzaldehyde | 150.4 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)OC | C15H14O3
reactant | sodium borohydride | 15.0 g | [BH4-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
product | 5-benzyloxy-2-methoxybenzyl alcohol | 143.8 g, 95% | C(C1=CC=CC=C1)OC=1C=CC(=C(CO)C1)OC | C15H16O3
